US07807394B2
2-Phenyl-1,3-dioxan-5-yl 4-methylbenzenesulfonate:
To a 2 liter round bottom flask was added 2-phenyl-1,3-dioxan-5-ol (50 g, 277 mmol), triethyl amine (42.1 g, 416 mmol), DMAP (3.39 g, 27.7 mmol) and dichloromethane (1 L). The reaction was cooled to 0° C. To this solution was added tosyl chloride (58.2 g, 305 mmol) and the reaction was stirred overnight at RT. The reaction was poured onto water (800 mL) and extracted into DCM. The organic layers were combined and concentrated to dryness. The crude mixture was recrystallized from EtOAc:Hex to afford 88 g (96% yield) of a white solid. 1H NMR (CDCl3, 400 MHz), δ: 2.44 (3H, s), 4.09 (2H, dd, J=13.6, 2 Hz), 4.27 (2H, dd, J=13.6, 1.6 Hz), 4.51 (2H, pseudo t, J=1.6 Hz), 7.33-7.36 (5H, m), 7.44-7.45 (2H, m), 7.85 (2H, d, J=8.39 Hz). Mass Spec (lo-res): Calc'd for C17H18O5S: 334.09. found: 335.1 (M+H).

reactant | 2-phenyl-1,3-dioxan-5-ol | 277 mmol, 50 g | C1(=CC=CC=C1)C1OCC(CO1)O | C10H12O3
reactant | triethyl amine | 416 mmol, 42.1 g | C(C)N(CC)CC | C6H15N
reactant | tosyl chloride | 305 mmol, 58.2 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
catalyst | DMAP | 27.7 mmol, 3.39 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | 2-Phenyl-1,3-dioxan-5-yl 4-methylbenzenesulfonate | 88 g, 96% yield | CC1=CC=C(C=C1)S(=O)(=O)OC1COC(OC1)C1=CC=CC=C1 | C17H18O5S
